US09328118B2
Di-tert-butyl dicarbonate (300 mg) and 20% palladium hydroxide on carbon (about 50% wet) were added to a mixture of ethyl(3-benzyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate (350 mg) and EtOH (10 mL) in a nitrogen atmosphere, and the mixture was stirred at room temperature for 16 hours in a hydrogen atmosphere at 4 atm. The reaction mixture was separated by filtration using Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=97:3 to 85:15), whereby tert-butyl 8-(2-ethoxy-2-oxoethyl)-3-azabicyclo[3.2.1]octane-3-carboxylate (371 mg) was obtained as a colorless liquid.

reactant | Di-tert-butyl dicarbonate | 300 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl(3-benzyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate | 350 mg | C(C)OC(C=C1C2CN(CC1CC2)CC2=CC=CC=C2)=O | C18H23NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-butyl 8-(2-ethoxy-2-oxoethyl)-3-azabicyclo[3.2.1]octane-3-carboxylate | 371 mg | C(C)OC(CC1C2CN(CC1CC2)C(=O)OC(C)(C)C)=O | C16H27NO4
